US04499271
In the same manner, ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-oxopentanoate is reacted with phosphoryl chloride and then with methanol (1 equiv.) and ethanol (1 equiv.) to give ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-methoxyethoxyphosphinyloxy-2-pentenoate (cpd. 7, Table A).

reactant | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-oxopentanoate | FC(C1=CC=C(OC2=CC=C(OC(C(CC(=O)OCC)=O)C)C=C2)C=C1)(F)F | C20H19F3O5
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methanol | 1 equiv. | CO | CH4O
reactant | ethanol | 1 equiv. | C(C)O | C2H6O
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-methoxyethoxyphosphinyloxy-2-pentenoate | FC(C1=CC=C(OC2=CC=C(OC(C(=CC(=O)OCC)OP(=O)OCCOC)C)C=C2)C=C1)(F)F | C23H26F3O8P
